US08133995B2
Step 2: Preparation of [4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]methanol
To a solution of DMF (50 mL) was added (4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)methanol (550 mg, 3.35 mmol) and 4-methylenemorpholin-4-ium chloride (Eur. J. Med. Chem. 1989, 24, 379-384) (636 mg, 4.69 mmol). The solution was stirred at rt for 1 h and then the solvent was evaporated. The oil was triturated with CH2Cl2 and a white solid was collected. The free based was obtained by stirring over a Dowex 66 solid support resin in MeOH. The material was filtered and evaporated yielding 794 mg (90%) of the desired product as a white solid. MS [M+H]+=264; LCMS RT=1.07.

reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | (4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)methanol | 3.35 mmol, 550 mg | NC1=NC=NN2C1=CC(=C2)CO | C7H8N4O
reactant | 4-methylenemorpholin-4-ium chloride | 4.69 mmol, 636 mg | [Cl-].C=[N+]1CCOCC1
solvent | MeOH | CO | CH4O
product | [4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]methanol | 794 mg, 90% | NC1=NC=NN2C1=CC(=C2CN2CCOCC2)CO | C12H17N5O2
